US05250547
A mixture of of 6-nitro-2,2,3-trimethyl-3,4-dihydro-2H-1-benzopyran-4-one (23.5 g, 0.1 mol) and 10% palladium on carbon (2 g) in methanol was stirred under an atmosphere of hydrogen at 40°-50° C. for five hours at atmospheric pressure. The solution was then filtered, and the solvent removed from the filtrate under reduced pressure to give 21 g of 6-amino-2,2,3-trimethyl-3,4-dihydro-2H-1-benzopyran-4-one as an oil. B. To a mixture of water (293 ml) and concentrated hydrochloric acid (25.7 ml) at 0° C. was added a solution of 6-amino-2,2,3-trimethyl-3,4-dihydro-2H-1-benzopyran-4-one (20.5 g, 0.1 mol) in ethanol (140 ml). A solution of sodium nitrite (7.6 g, 0.11 mol) in water (90 ml) was then added, such that the temperature did not rise above 0° C. After fifteen minutes at 0° C., the reaction mixture was poured into a solution containing potassium cyanide (58.6 g, 0.90 mol) and cuprous cyanide (80.61 g, 0.90 mol) in water at 90° C., whilst maintaining the temperature of the reaction above 70° C. The resulting mixture was heated at 90° C. for one hour and then cooled to 20° C., extracted with ethyl acetate and the extract washed with water. The organic layer was separated and the solvent removed under reduced pressure. The residue was chromatographed on silica gel, eluting with dichloromethane/acetone (99/1) to give 16.58 g of 6-cyano-2,2,3-trimethyl-3,4-dihydro-2H-1-benzopyran-4-one, 1H NMR (CDCl3): δ 1.2 (d, 3H), 1.30 (s, 3H), 1.5 (s, 3H), 2.8 (q, 1H), 7.0 (d, 1H), 7.70 (d, 1H), 8.1 (s, 1H).

reactant | 6-nitro-2,2,3-trimethyl-3,4-dihydro-2H-1-benzopyran-4-one | 0.1 mol, 23.5 g | [N+](=O)([O-])C=1C=CC2=C(C(C(C(O2)(C)C)C)=O)C1 | C12H13NO4
catalyst | palladium on carbon | 2 g | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 6-amino-2,2,3-trimethyl-3,4-dihydro-2H-1-benzopyran-4-one | 21 g | NC=1C=CC2=C(C(C(C(O2)(C)C)C)=O)C1 | C12H15NO2
